US09303033B2
Synthesis of 3-((7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)benzonitrile
To the reaction flask, 3-((7-chloropyrazolo[1,5-a]pyrimidin-5-yl)methyl)benzonitrile (400 mg, 1.5 mmol) was added along with cyclopropylamine (115 μL, 1.6 mmol), triethylamine (230 μL, 1.6 mmol), and acetonitrile (3 mL). The reaction was stirred at room temperature for 8 hours at 80° C. then cooled to room temperature, diluted with water, filtered and washed with water. The product, 3-((7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)benzonitrile, was collected as a solid in 83% yield after drying under vacuum overnight. LCMS (M+1=290)

reactant | 3-((7-chloropyrazolo[1,5-a]pyrimidin-5-yl)methyl)benzonitrile | 1.5 mmol, 400 mg | ClC1=CC(=NC=2N1N=CC2)CC=2C=C(C#N)C=CC2 | C14H9ClN4
reactant | cyclopropylamine | 1.6 mmol, 115 μL | C1(CC1)N | C3H7N
reactant | triethylamine | 1.6 mmol, 230 μL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-((7-(cyclopropylamino)pyrazolo[1,5-a]pyrimidin-5-yl)methyl)benzonitrile | 83% yield | C1(CC1)NC1=CC(=NC=2N1N=CC2)CC=2C=C(C#N)C=CC2 | C17H15N5
